US07196080B2
To a THF (2.5 ml) solution of 211 mg of 1-(4-aminophenyl)-4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazine were added 63.5 mg of methanesulfonyl chloride and 76.8 μl of triethylamine, followed by overnight stirring at room temperature. Further, 79 mg of methanesulfonyl chloride and 103 μl of triethylamine were added in twice thereto, and the whole was stirred at room temperature for 3 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate, and thereafter, the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform-methanol) and then crystallization was carried out from ethyl acetate-diisopropyl ether to obtain 175 mg of 4′-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}methanesulfonanilide as pale purple crystals.

reactant | THF | 2.5 ml | C1CCOC1 | C4H8O
reactant | 1-(4-aminophenyl)-4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazine | 211 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(=O)C1=NC(=CC=C1)C1=CC(=C(C=C1)OC)OC | C24H26N4O3
reactant | methanesulfonyl chloride | 63.5 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 76.8 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 79 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 103 μl | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 4′-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}methanesulfonanilide | 175 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(NS(=O)(=O)C)C=C1 | C25H28N4O5S
